US07208322B2
A) Synthesis of 11-tert-Butoxycarbonylamino-undecanoic acid (1)
11-Aminoundecanoic acid (20.4 g, 101.3 mmol) and di-tert-butyldicarbonate (24.3 g, 111.0 mmol) are suspended in water (300 mL) and methanol (150 mL). Aqueous sodium hydroxide (3.13 M, 65 mL) is added, and the mixture is stirred at room temperature. After 30 minutes, the mixture became homogenous. After stirring for a total of 6 hours, the methanol was removed in vacuo. Ethyl acetate (500 mL) was added to the aqueous solution. Aqueous hydrochloric acid (1 N, 300 mL) was added slowly to the stirred mixture until the evolution of gas ceased. The pH was tested with pH paper and determined to be 4 to 5 at this point. The layers were separated, and the ethyl acetate solution was extracted sequentially with aqueous hydrochloric acid (1 N, 250 mL, water (250 mL) and brine (150 mL). The organic phase was then dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to a thick oil. Upon cooling of the oil, a waxy solid was obtained (29.0 g, 95% yield). The material was used in the next step without further purification. 1H NMR (300 MHz, DMSO-d6): δ 1.23 (br s, 12H), 1.30–1.38 (m, 11H), 1.43–1.52 (m, 2H), 2.18 (t, J=7.3 Hz, 2H), 2.88 (q, J=6.3 Hz, 2H), 6.73 (t, J=5.4 Hz, 1H), 11.95 (s, 1H). 13C NMR (75 MHz, DMSO-d 6): δ 24.50, 26.27, 28.26, 28.57, 28.72, 28.75, 28.86, 28.97, 29.48, 33.66, 77.23, 155.56, 174.47. HRMS (ESI-pos): calcd for C16H32NO4 302.2331, obsd 302.2328.

reactant | 11-Aminoundecanoic acid | 101.3 mmol, 20.4 g | NCCCCCCCCCCC(=O)O | C11H23NO2
reactant | di-tert-butyldicarbonate | 111.0 mmol, 24.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 3.13 M, 65 mL | [OH-].[Na+]
solvent | water | 300 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
product | 11-tert-Butoxycarbonylamino-undecanoic acid | 95% yield | C(C)(C)(C)OC(=O)NCCCCCCCCCCC(=O)O | C16H31NO4
